Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac cath ___

 
History of Present Illness:
Mr. ___ is a ___ with history of HLD now presenting with 
chets pain.  
 Patient states he has been having 3 days of intermittent 
retrosternal chest pain and shortness of breath. He states the 
SOB does become worse with walking. He states he went to the 
___ today due to persistent and worsening 
symptoms. Patient denies n/v/d, f/c.  
 At ___, he was found to have elevated troponin 
(0.22). CXR without acute cardiothoracic abnormality. He was 
given ASA and started on heparin gtt and transferred to ___.  
 In the ED initial vitals were:  
 98.4 80 120/70 20 95% RA  
 EKG: NSR rate 82, no acute ST-T changes, possible old inferior 
infarct.  
 Labs/studies notable for Trop 0.31 (0.22 at OSH)  
 Patient was given:  
 Heparin IV gtt, atorvastatin 80mg  
 Vitals on transfer:  
 98.4 77 123/76 14 94% RA  
 At 23:07, while being prepared for transfer the patient 
experienced recurrent chest pain, relieved with 2x 
nitroglycerin. At time of arrival to floor he endorses dyspnea 
with exertion but no other symptoms.  
 ROS: +per HPI  
 
Past Medical History:
1. CARDIAC RISK FACTORS: Hyperlipidemia, at some point he was on 
a cholesterol-lowering medication previously  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 - Left knee medial femoral condyle osteonecrosis; right  
 knee nonunion of posterior tibial eminence fracture.  
 - Right vocal fold hypomobility  
 
Social History:
___
Family History:
 Father had MI at age ___ brothers have CAD.  
 
Physical Exam:
ON ADMISSION: 
VS: 98.0 130/72 59 18 98RA  
 GENERAL: ___ man in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with JVP not visible at 90 degrees  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  

ON DISCHARGE: 
VS: afebrile ___, 116/67 16 96RA
 GENERAL: WDWN man in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with JVP not visible at 90 degrees  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. R wrist with dressing in place c/d/I, 
good perfusion to distal extremity, no hematoma. 
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 
Pertinent Results:
ON ADMISSION:
___ 08:53PM BLOOD WBC-9.9 RBC-4.79 Hgb-13.4* Hct-41.1 
MCV-86 MCH-28.0 MCHC-32.6 RDW-13.3 RDWSD-41.3 Plt ___
___ 08:53PM BLOOD Neuts-58.3 ___ Monos-5.4 Eos-5.2 
Baso-0.4 Im ___ AbsNeut-5.77 AbsLymp-3.00 AbsMono-0.53 
AbsEos-0.51 AbsBaso-0.04
___ 06:00AM BLOOD ___ PTT-43.5* ___
___ 08:53PM BLOOD Glucose-95 UreaN-13 Creat-0.7 Na-140 
K-3.5 Cl-104 HCO3-25 AnGap-15
___ 08:53PM BLOOD cTropnT-0.31*
___ 06:00AM BLOOD Calcium-9.7 Phos-4.0 Mg-2.2

PERTINENT LABS: 
___ 08:53PM BLOOD cTropnT-0.31*
___ 06:00AM BLOOD CK-MB-3 cTropnT-0.29*
___ 09:30AM BLOOD cTropnT-0.17*
___ 07:00PM BLOOD cTropnT-0.22*
___ 12:50PM BLOOD cTropnT-0.12*

ON DISCHARGE: 
___ 07:15AM BLOOD WBC-10.1* RBC-4.85 Hgb-13.3* Hct-41.3 
MCV-85 MCH-27.4 MCHC-32.2 RDW-13.3 RDWSD-41.3 Plt ___
___ 07:15AM BLOOD ___ PTT-29.7 ___
___ 07:15AM BLOOD Glucose-97 UreaN-13 Creat-0.8 Na-139 
K-4.1 Cl-100 HCO3-25 AnGap-18
___ 07:15AM BLOOD Calcium-9.5 Phos-4.2 Mg-2.0

IMAGING: 

___ CATH REPORT: 
Coronary Anatomy:
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.

* Left Anterior Descending
The LAD is occluded proximally and 90% mid.

* Circumflex
 The Circumflex is normal.

* Right Coronary Artery
The RCA has a 30% proximal stenosis and supplies collaterals to 
LAD.

IMPRESSIONS: Successful PCI of the proximal occluded LAD with 
3.5 by 32 Promus and successful PCI of mid LAD with overlapping 
2.5 by 32 Promus postdilated to 2.75 mm with good result. 

___ TTE:
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
regional left ventricular systolic dysfunction with hypokinesis 
of the distal septum and apex (distal LAD territory). The 
remaining segments contract normally (LVEF = 50%). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. Trace aortic regurgitation is 
seen. The mitral valve leaflets are structurally normal. There 
is no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. There is an anterior space which most likely represents 
a prominent fat pad. 

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. Mild mitral regurgitation. 
 
Brief Hospital Course:
Mr. ___ is a ___ h/o HL presenting with chest pain and 
elevated trops, concerning for NSTEMI. Transferred from ___ 
___ where he had a negative CXR. 

#NSTEMI: ___ h/o HL presenting with 3 days of intermittent chest 
pain. EKG initially showed biphasic Twaves in V1 to V3 that 
resolved, otherwise no acute ST segment changes on EKG. Trop 
elevated to peak 0.31, concerning for NSTEMI. Received full dose 
aspirin, continued on heparin gtt. Cardiac cath showed RCA with 
30% proximal stenosis and LAD fully occluded proximally and 90% 
mid, s/p ___ 2 without complications. Post-cath TTE showed 
normal systolic function (LVEF=50%), mild hypokinesis of the 
apical septum and apex. He was started on ASA 81 mg daily, 
metoprolol XL 50mg daily, atorva 80mg and brilinta 90 mg twice 
daily in addition to Integrilin for 6 hrs post-procedure and 
discharged home with PCP and cards ___. 

====================
TRANSITIONAL ISSUES:
====================
-CAD: Started on ASA 81mg, Atorva 80mg, Metoprolol XL 50mg daily 
and brillinta 90 mg twice daily. Will ___ with cards at 
___ in ___. 
-CODE: Full 
-CONTACT: ___ 
Relationship: WIFE 
Phone: ___ 
 
___ on Admission:
None
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin [Nitrostat] 0.3 mg 1 tablet(s) sublingually Q5 
minutes PRN Disp #*30 Tablet Refills:*0
4. TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [BRILINTA] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3
5. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: NSTEMI

SECONDARY DIAGNOSIS: Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. 

You were admitted because you had a heart attack. You underwent 
cardiac catheterization which revealed blockages in one of the 
arteries of your heart. You had two stents placed. 

It is very important to take all of your heart healthy 
medications. 

You are now on aspirin. You need to take aspirin everyday. If 
you stop taking aspirin, you risk the stent clotting and another 
heart attack or death. Do not stop taking aspirin unless you are 
told by your cardiologist. No other doctor can tell you to stop 
taking this medication. 

You are now on Brillinta (also known as ticagrelor). This 
medication helps keep your stent open. Do not stop taking 
Brillinta unless you are told by your cardiologist. No other 
doctor can tell you to stop taking this medication. 

We wish you all the best, 

Your ___ Cardiology team
 
Followup Instructions:
___